US05641430
Preparation of trans-4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-(4-fluorobutyl)-1-silacyclohexane
The general procedure of Example 39 was repeated using 3,4-difluorophenol and 4-(trans-4-bromomethylcyclohexyl)-1-phenyl-1-(4-fluorobutyl)-1-silacyclohexane, thereby obtaining the intended product.

reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 4-(trans-4-bromomethylcyclohexyl)-1-phenyl-1-(4-fluorobutyl)-1-silacyclohexane | BrC[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(CCCCF)C1=CC=CC=C1 | C22H34BrFSi
product | trans-4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-(4-fluorobutyl)-1-silacyclohexane | FC=1C=C(C=CC1F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCCF | C22H33F3OSi
